US07060827B2
In like manner to the preparation of (±)-N4-(3,4-difluorophenyl)-N2-(2,3-dihydro-2-methoxycarbonylbenzofuran-5-yl)-5-fluoro-2,4-pyrimidinediamine, the reaction of (±)-5-amino-2,3-dihydro-2-methoxycarbonylbenzofuran with 2-chloro-N4-(2,6-dimethoxypyridin-3-yl)-5-fluoro-4-pyrimidineamine gave (±)--N2-(2,3-dihydro-2-methoxycarbonylbenzofuran-5-yl)-N4-(2,6-dimethoxypyridin-3-yl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 10.03 (bs, 2H), 8.18 (d, 1H, J=4.8 Hz), 7.68 (bd, 1H, J=8.1 Hz), 7.27 (bs, 1H), 6.98 (bd, 1H, J=8.1 Hz), 6.69 (d, 1H, J=8.7 Hz), 6.44 (d, 1H, J=8.1 Hz), 5.33 (dd, 1H, J=5.7 Hz), 3.88 (s, 3H), 3.86 (s, 3H), 3.69 (s, 3H), 3.42 (dd, 1H, J=10.8 and 11.1 Hz), 3.10 (dd, 1H, J=6.3 and 6.6 Hz); LCMS: purity: 99%; MS (m/e): 442 (MH+).

reactant | (±)-5-amino-2,3-dihydro-2-methoxycarbonylbenzofuran | NC=1C=CC2=C(CC(O2)C(=O)OC)C1 | C10H11NO3
reactant | 2-chloro-N4-(2,6-dimethoxypyridin-3-yl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC=1C(=NC(=CC1)OC)OC)F | C11H10ClFN4O2
product | (±)--N2-(2,3-dihydro-2-methoxycarbonylbenzofuran-5-yl)-N4-(2,6-dimethoxypyridin-3-yl)-5-fluoro-2,4-pyrimidinediamine | COC(=O)C1OC2=C(C1)C=C(C=C2)NC2=NC=C(C(=N2)NC=2C(=NC(=CC2)OC)OC)F | C21H20FN5O5
